US07238716B2
A mixture of 2-ethoxy-5-hydroxybenzaldehyde (3.72 g), benzyl bromide (5.75 g), anhydrous potassium carbonate (3.10 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 3 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (5.06 g, 88%) of 5-benzyloxy-2-ethoxybenzaldehyde from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Redrystallization from ethyl, acetate-hexane gave colorless prism crystals. melting point: 81-82° C.

reactant | 2-ethoxy-5-hydroxybenzaldehyde | 3.72 g | C(C)OC1=C(C=O)C=C(C=C1)O | C9H10O3
reactant | benzyl bromide | 5.75 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-benzyloxy-2-ethoxybenzaldehyde | 5.06 g, 88% | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)OCC | C16H16O3
